US08865704B2
4-[trans-4-(4-pyridin-2-yl-piperazine-1-carbonyl)-cyclohexylmethyl]-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione
CDI (0.18 mmol, 0.03 g) was added to a solution of trans-4-(2,5-Dioxo-1,2,3,5 tetrahydrobenzo[e][1,4]diazepin-4-ylmethyl)-cyclohexanecarboxylic acid (0.16 mmol, 0.05 g) in dry DCM (1 mL) under argon. After 1 h at room temperature, 1-Pyridin-2-yl-piperazine (0.24 mmol, 35 μL) was added and the reaction mixture was left stirring at room temperature under argon overnight. The DCM solution was washed with water, the solvent was removed under reduced pressure and the crude purified by column chromatography on silica gel using DCM/MeOH 95/5 as eluent to give 45 mg (yield 59%) of the titled compound.

reactant | CDI | 0.18 mmol, 0.03 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | trans-4-(2,5-Dioxo-1,2,3,5 tetrahydrobenzo[e][1,4]diazepin-4-ylmethyl)-cyclohexanecarboxylic acid | 0.16 mmol, 0.05 g | O=C1CN(C(C2=C(N1)C=CC=C2)=O)C[C@@H]2CC[C@H](CC2)C(=O)O | C17H20N2O4
reactant | 1-Pyridin-2-yl-piperazine | 0.24 mmol, 35 μL | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 4-[trans-4-(4-pyridin-2-yl-piperazine-1-carbonyl)-cyclohexylmethyl]-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | 45 mg, yield 59% | N1=C(C=CC=C1)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)CN1CC(NC2=C(C1=O)C=CC=C2)=O | C26H31N5O3
